US08937078B2
Step F: 1-(6-Cyclopropyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid.
A mixture of 1-(6-cyclopropyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester (0.045 g, 0.139 mmol), 1M aq. KOH (0.694 mL) and THF (0.694 mL) was stirred for 18 h. The mixture was concentrated to remove the THF and the aqueous residue was acidified with 6 M aq. HCl at 0° C. The resulting precipitate was collected by filtration to provide the titled compound (0.035 g, 85%). MS (ESI/Cl): mass calcd. for C16H12N4O3, 296.1; m/z found, 297.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 12.92 (s, 2H), 8.93 (d, J=0.5 Hz, 1H), 8.24 (s, 1H), 7.81 (s, 1H), 7.65-7.50 (m, 2H), 2.22-2.04 (m, 1H), 1.14-0.94 (m, 2H), 0.85-0.68 (m, 2H).

reactant | 1-(6-cyclopropyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid ethyl ester | 0.139 mmol, 0.045 g | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC=C(C=C2C(N1)=O)C1CC1 | C17H16N4O3
reactant | KOH | 1M, 0.694 mL | [OH-].[K+]
solvent | THF | 0.694 mL | C1CCOC1 | C4H8O
product | 1-(6-Cyclopropyl-4-oxo-3,4-dihydro-quinazolin-2-yl)-1H-pyrazole-4-carboxylic acid | 0.035 g, 85% | C1(CC1)C=1C=C2C(NC(=NC2=CC1)N1N=CC(=C1)C(=O)O)=O | C15H12N4O3
